US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine was coupled to 6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile by the method of Example 12 to give 3,2′-difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile as a yellow solid: δH (400 MHz, CDCl3) 6.99-7.11 (2H, m), 7.32-7.40 (2H, m), 7.47 (1H, t, J 9.2 Hz), 7.70-7.76 (1H, m), 8.30-8.40 (3H, m), 9.66 (1H, s); m/z(ES+) 407.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | FC1=CC=CC(=C1C#N)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
product | 3,2′-difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F)F)C#N | C22H10F4N4
